US09238644B2
(a) 4-Chloro-N-(1-methyl-1H-pyrazol-4-yl)-5-(trifluoromethyl)pyrimidin-2-amine (A74)
ZnCl2 in Et2O (1M, 23.2 mL, 23.2 mmol) was added to 2,4-dichloro-5-trifluoromethylpyrimidine (5.2 mL, 39 mmol) in DCE:t-BuOH (1:1, 150 mL) under a nitrogen atmosphere. The mixture was stirred for 45 minutes before addition of 1-methyl-1H-pyrazol-4-amine (1.880 g, 19.36 mmol) in DCE/t-BuOH (1:1, 150 mL) and DIPEA (3.2 mL, 18 mmol). The mixture was heated to 50° C. for 16 hours, cooled and filtered using vacuum filtration. The solid was washed with MeOH and the filtrate concentrated under reduced pressure before being poured into water. The resulting precipitate was collected under vacuum filtration and washed with water then petroleum benzine 40-60° C. and finally dissolved in Et2O and filtered. The Et2O filtrate was concentrated under reduced pressure to give the crude product which was further purified in batches by a combination of trituration with Et2O and cyclohexane or silica gel column chromatography (0-30% EtOAc in petroleum benzine 40-60° C.) then combined to give the title compound A74 (1.6 g, 30%). 1H NMR (400 MHz, d-DMSO) δ ppm 10.66-10.58 (m, 1H), 8.77-8.68 (m, 1H), 7.93-7.86 (m, 1H), 7.53 (s, 1H), 3.88-3.78 (m, 3H).

reactant | Et2O | 23.2 mmol, 1M, 23.2 mL | CCOCC | C4H10O
reactant | 2,4-dichloro-5-trifluoromethylpyrimidine | 39 mmol, 5.2 mL | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | 1-methyl-1H-pyrazol-4-amine | 19.36 mmol, 1.880 g | CN1N=CC(=C1)N | C4H7N3
reactant | DIPEA | 18 mmol, 3.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCE t-BuOH | 150 mL | ClCCCl.CC(C)(C)O
solvent | DCE t-BuOH | 150 mL | ClCCCl.CC(C)(C)O
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 4-Chloro-N-(1-methyl-1H-pyrazol-4-yl)-5-(trifluoromethyl)pyrimidin-2-amine | ClC1=NC(=NC=C1C(F)(F)F)NC=1C=NN(C1)C | C9H7ClF3N5
